US04282212
1-(N-Ethoxycarbonylacetyl-carbamoyl)-2-cyanoaziridine.
4 g. Ethoxycarbonylacetyl isocyanate are dissolved in 40 ml. toluene and mixed, while stirring, at 20°-30° C. with a solution of 1.73 g. 2-cyanoaziridine in 20 ml. toluene. After about 5 minutes, an oily deposit separates out which, after trituration, gradually solidifies. The suspension thus obtained is further stirred for 1 hour at ambient temperature, then filtered off with suction and washed with toluene and the solid product triturated with anhydrous diethyl ether. There are thus obtained 3.7 g. 1-(N-ethoxycarbonylacetyl-carbamoyl)-2-cyanoaziridine; m.p. 121°-123° C. The product is practically insoluble in water but is soluble in dilute aqueous sodium hydroxide solution.

reactant | Ethoxycarbonylacetyl isocyanate | C(C)OC(=O)CC(=O)N=C=O | C6H7NO4
reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-Ethoxycarbonylacetyl-carbamoyl)-2-cyanoaziridine | C(C)OC(=O)CC(=O)NC(=O)N1C(C1)C#N | C9H11N3O4
